US05162326
3-Propyl-6-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione
A mixture of 1-(2'-cyanobiphenyl-4-yl)methyl-3-propyl-6-propylthiopyrimidine-2,4(1H,3H)-dione (0.77 g), sodium azide (1.8 g) and ammonium chloride (1.48 g) in dimethylformamide (10 ml) was heated at 115° C. for 84 hours. The reaction mixture was diluted with methylene chloride and then the precipitate was filtered. The filtrate was concentrated to dryness in vacuo. The resulting residue was extracted with methylene chloride water. The organic layer was washed with water, dried, and evaporated to dryness. The resulting residue was purified by column chromatography on silica gel to give yellow amorphous powders (0.41 g, 46%).

reactant | 1-(2'-cyanobiphenyl-4-yl)methyl-3-propyl-6-propylthiopyrimidine-2,4(1H,3H)-dione | 0.77 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(N(C(C=C1SCCC)=O)CCC)=O | C24H25N3O2S
reactant | sodium azide | 1.8 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.48 g | [Cl-].[NH4+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3-Propyl-6-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]pyrimidine-2,4(1H,3H)-dione | 0.41 g, 46% | C(CC)N1C(N(C(=CC1=O)SCCC)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O | C24H26N6O2S
